US08304419B2
N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-5-[(3-pyridinylcarbonyl)amino]-1H-indole-2-carboxamide
The title compound (0.011 g, 19%) was prepared from 5-amino-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-indole-2-carboxamide trifluoroacetate (0.050 g, 0.086 mmol), 3-pyridinecarboxylic acid (0.011 g, 0.086 mmol), DIPEA (0.075 mL, 0.43 mmol) and bis(2-oxo-3-oxazolidinyl)phosphinic chloride (0.065 g, 0.257 mmol) in a similar manner as described in the general procedure. 1H NMR (400 MHz, DMSO-d6): δ ppm 11.66 (s, 1H), 10.38 (s, 1H), 9.16 (s, 2H), 8.80 (s, 1H), 8.38 (s, 1H), 8.12 (s, 1H), 7.72-7.97 (m, 1H), 7.32-7.97 (m, 7H), 7.19 (s, 1H), 4.58 (d, 2H). MS: m/z 574 (M+1).

reactant | 5-amino-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-indole-2-carboxamide trifluoroacetate | 0.086 mmol, 0.050 g | FC(C(=O)O)(F)F.NC=1C=C2C=C(NC2=CC1)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F
reactant | 3-pyridinecarboxylic acid | 0.086 mmol, 0.011 g | N1=CC(=CC=C1)C(=O)O | C6H5NO2
reactant | DIPEA | 0.43 mmol, 0.075 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | bis(2-oxo-3-oxazolidinyl)phosphinic chloride | 0.257 mmol, 0.065 g | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
product | N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-5-[(3-pyridinylcarbonyl)amino]-1H-indole-2-carboxamide | 0.011 g, 19% | ClC1=C(C(=C(C=C1)CNC(=O)C=1NC2=CC=C(C=C2C1)NC(=O)C=1C=NC=CC1)F)OC1=CC(=CC(=C1)C#N)Cl | C29H18Cl2FN5O3
